US08912219B2
To a solution of tert-butyl N-phenylsulfamoylcarbamate (2.0 g, 7.35 mmol) and 1,4-dibromobutane (1.6 g, 7.35 mmol) in acetone (30 mL) was added Cs2CO3 (7.2 g, 22.05 mmol) and the mixture was stirred at 60° C. for 48 hours. The reaction mixture was filtered and concentrated under reduced pressure to afford tert-butyl 1,1-dioxo-7-phenyl-1λ6,2,7-thiadiazepane-2-carboxylate as a yellow oil (860 mg, 39%). LCMS (ESI): m/z=271.1 [M−56+H]+.

reactant | tert-butyl N-phenylsulfamoylcarbamate | 7.35 mmol, 2.0 g | C1(=CC=CC=C1)NS(=O)(=O)NC(OC(C)(C)C)=O | C11H16N2O4S
reactant | 1,4-dibromobutane | 7.35 mmol, 1.6 g | BrCCCCBr | C4H8Br2
reactant | Cs2CO3 | 22.05 mmol, 7.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | tert-butyl 1,1-dioxo-7-phenyl-1λ6,2,7-thiadiazepane-2-carboxylate | 860 mg, 39% | O=S1(N(CCCCN1C1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C15H22N2O4S
